US08049012B2
6-(3-Aza-spiro[5.5]undec-9-yloxy)-chromen-2-one
Was prepared according to method A from 6-hydroxycoumarin and 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester. Mp. 192.9-193.6° C.

reactant | 6-hydroxycoumarin | OC=1C=C2C=CC(OC2=CC1)=O | C9H6O3
reactant | 9-hydroxy-3-aza-spiro[5.5]undecane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)O | C15H27NO3
product | 6-(3-Aza-spiro[5.5]undec-9-yloxy)-chromen-2-one | C1CNCCC12CCC(CC2)OC=2C=C1C=CC(OC1=CC2)=O | C19H23NO3
